US05254565
Triethylamine (0.15 ml) was dropwise added to a mixture of 4-acetoxy-3,5-didiisopropylbenzoic acid (238 mg), diphenylphosphoryl azide (300 mg) and benzene (10 ml) under stirring. The mixture was further stirred for 30 mins. at room temperature, and for 40 mins. under reflux to prepare a solution of 4-acetoxy-3,5-diisopropylphenylisocyanate. After cooling, to the solution were added a solution of 3-amino-4-(2-chlorophenyl)-6,8-dimethylquinoline (255 mg) in benzene (255 mg) and then triethylamine (0.15 ml). The whole was stirred for 2 hrs. at room temperature, then for 3 hrs. under reflux, and thereto was added ethyl acetate. The organic layer was separated, washed with 2N-hydrochloric acid and water successively, and dried over anhydrous magnesium sulfate and then distilled to remove the solvent. The residue was recrystallized from a mixture of acetone and isopropyl ether to give 3-[3-(4-acetoxy-3,5-diisopropylphenyl)ureido]-4-(2-chlorophenyl)-6,8-dimethylquinoline as colorless needles. Yield 367 mg (74.9%). m.p. 248°-249° C.

reactant | Triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 300 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 4-acetoxy-3,5-diisopropylphenylisocyanate | C(C)(=O)OC1=C(C=C(C=C1C(C)C)N=C=O)C(C)C | C15H19NO3
reactant | 3-amino-4-(2-chlorophenyl)-6,8-dimethylquinoline | 255 mg | NC=1C=NC2=C(C=C(C=C2C1C1=C(C=CC=C1)Cl)C)C | C17H15ClN2
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 255 mg | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[3-(4-acetoxy-3,5-diisopropylphenyl)ureido]-4-(2-chlorophenyl)-6,8-dimethylquinoline | C(C)(=O)OC1=C(C=C(C=C1C(C)C)NC(NC=1C=NC2=C(C=C(C=C2C1C1=C(C=CC=C1)Cl)C)C)=O)C(C)C | C32H34ClN3O3
